US06403055B1
B) N-[2-(1,1-Dimethylethoxy)-2-oxoethyl]-N-(2-hydroxyethyl)-L-phenylalanine 1,1-dimethylethyl ester
A solution of L-phenylalanine 1,1-dimethylethyl ester (221.3 g; 1 mol), 2-(2-bromoethoxy)-tetra-hydropyran, prepared according to J. Org. Chem. 1986, 51, 752-755 (282.3 9; 1.35 mol) and diisopropylethylamine (commercial product) (175 mL; 1 mol) in CH3CN (1 L) was refluxed for 14 h. Diisopropylethylamine (commercial product) (175 mL; 1 mol) and tert-butyl bromoacetate (commercial product) (233 g; 1.2 mol) were added and the mixture refluxed for further 2 h. The solution was evaporated to give a residue which was dissolved in n-hexane (2 L) and washed with H2O (1,4L), 1 N HCl (500 mL), 1 N NaOH (100 mL) and H2O (200 mL). The solution was evaporated and the residue was dissolved in MeOH (2 L) and 2 N HCl (1 L) was added. After 2 h, 2 N NaOH (1.2 L) was added, the solution was evaporated to remove methanol and n-hexane (2 L) was added to extract the product. The organic solution was evaporated to obtain the desired product (280 g; 0.738 mol). The product was utilised for the following step without further purification.

reactant | L-phenylalanine 1,1-dimethylethyl ester | 1 mol, 221.3 g | CC(C)(C)OC([C@@H](N)CC1=CC=CC=C1)=O | C13H19NO2
reactant | 2-(2-bromoethoxy)-tetra-hydropyran | BrCCOC1OCCCC1 | C7H13BrO2
reactant | diisopropylethylamine | 1 mol, 175 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Diisopropylethylamine | 1 mol, 175 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyl bromoacetate | 1.2 mol, 233 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | CH3CN | 1 L | CC#N | C2H3N
solvent | n-hexane | 2 L | CCCCCC | C6H14
product | N-[2-(1,1-Dimethylethoxy)-2-oxoethyl]-N-(2-hydroxyethyl)-L-phenylalanine 1,1-dimethylethyl ester | 0.738 mol, 280 g, Yield 74% | CC(C)(C)OC([C@@H](N(CCO)CC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C21H33NO5
